US07652049B2
Step B: 5-[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1-(4-methoxybenzyl)imidazolidin-2-one
To a 0° C. solution of 100 mg of [4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl][(4-methoxybenzyl)amino]acetonitrile in 4 mL of THF was added 620 μL of a 1 M solution of LiAlH4 in Et2O. The cooling bath was removed and the mixture was stirred for 45 min at r.t. The mixture was recooled to 0° C. and carefully quenched by dropwise addition of 24 μL of water, 24 μL of 15% aqueous NaOH solution, and 60 μL of water. The solids were filtered, washing liberally with Et2O, and the filtrate was concentrated. The residue was dissolved in 2 mL of CH2Cl2 and cooled to 0° C. Triethylamine (55 μL) and then triphosgene (32 mg) were added. The mixture was stirred for 45 min at 0° C. The reaction mixture was partitioned between 10 mL of EtOAc and 10 mL of water. The aqueous was extracted with 10 mL of EtOAc and the combined organics were washed with 10 mL of brine, dried (Na2SO4), and concentrated. The residue was purified by flash chromatography on a Biotage Horizon, 25S column, eluting with 1 CV of 15% EtOAc in hexanes followed by a linear gradient of 15→100% EtOAc in hexanes over 10 CV to provide the title compound. Mass spectrum (ESI) 517.3 (M+1).

reactant | [4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl][(4-methoxybenzyl)amino]acetonitrile | 100 mg | FC1=CC(=C(C=C1C(C)C)C1=C(C=C(C=C1)C(F)(F)F)C(C#N)NCC1=CC=C(C=C1)OC)OC | C27H26F4N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 5-[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1-(4-methoxybenzyl)imidazolidin-2-one | FC1=CC(=C(C=C1C(C)C)C1=C(C=C(C=C1)C(F)(F)F)C1CNC(N1CC1=CC=C(C=C1)OC)=O)OC | C28H28F4N2O3
